US04115575
Glycerol glycid and benzylamine are reacted in a known manner to give 3-benzylamino-1,2-propanediol (boiling point 160°-170° C./0.01 mm Hg),

reactant | Glycerol glycid | C1C(O1)CO | C3H6O2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 3-benzylamino-1,2-propanediol | C(C1=CC=CC=C1)NCC(CO)O | C10H15NO2
